US07547710B2
To a solution of {[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}acetic acid (0.25 g, 0.52 mmol) in N,N-dimethylformamide (5 ml) was added di(N-succinimidyl) carbonate (0.42 g, 2.6 mmol), and the mixture was stirred at room temperature for 1 hr. To the reaction mixture were added methanesulfonamide (0.25 g, 2.6 mmol) and 1,8-diazabicyclo[5.4.0]-7-undecene (0.40 ml, 2.6 mmol), and the mixture was stirred at 100° C. for 5 hrs. The reaction mixture was cooled to room temperature and water was poured thereinto. The mixture was extracted with ethyl acetate and the extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was crystallized from n-hexane-diisopropyl ether to give tert-butyl [(2-isobutyl-4-(4-methylphenyl)-6-{2-[(methylsulfonyl)amino]-2-oxoethoxy}quinolin-3-yl)methyl]carbamate (0.29 g, yield 98%) as pale-yellow crystals.

reactant | {[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}acetic acid | 0.52 mmol, 0.25 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCC(=O)O)CC(C)C | C28H34N2O5
reactant | di(N-succinimidyl) carbonate | 2.6 mmol, 0.42 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | methanesulfonamide | 2.6 mmol, 0.25 g | CS(=O)(=O)N | CH5NO2S
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 2.6 mmol, 0.40 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl [(2-isobutyl-4-(4-methylphenyl)-6-{2-[(methylsulfonyl)amino]-2-oxoethoxy}quinolin-3-yl)methyl]carbamate | 0.29 g, yield 98% | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)OCC(=O)NS(=O)(=O)C | C29H37N3O6S
